US08669266B2
(i) (S)-4-Benzyloxycarbonylamino-5-[4-(3-methoxy-phenyl)-piperazin-1-yl]-5-oxo-pentanoic acid tert-butyl ester
To a solution of 2 g of (S)-2-Benzyloxycarbonylamino-pentanedioic acid 5-tert-butyl ester 2.7 g of NEM and 1.9 g of TOTU in 10 ml of DMF, 1.1 g of 1-(3-Methoxy-phenyl)-piperazine was added at RT and stirred for 16 h. The reaction mixture was diluted with 150 ml of ethyl and subsequently extracted with aqueous LiCl (4% w/w), 0.1 M HCl and aqueous NaHCO3. The organic layer was dried over MgSO4 and the solvent was removed under reduced pressure. The crude product thus obtained was pure enough for the further manipulations. Yield: 4 g.

reactant | (S)-2-Benzyloxycarbonylamino-pentanedioic acid 5-tert-butyl ester | 2 g | C(C)(C)(C)OC(CC[C@@H](C(=O)O)NC(=O)OCC1=CC=CC=C1)=O | C17H23NO6
reactant | TOTU | 1.9 g | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | 1-(3-Methoxy-phenyl)-piperazine | 1.1 g | COC=1C=C(C=CC1)N1CCNCC1 | C11H16N2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (S)-4-Benzyloxycarbonylamino-5-[4-(3-methoxy-phenyl)-piperazin-1-yl]-5-oxo-pentanoic acid tert-butyl ester | C(C)(C)(C)OC(CC[C@@H](C(=O)N1CCN(CC1)C1=CC(=CC=C1)OC)NC(=O)OCC1=CC=CC=C1)=O | C28H37N3O6
